US07816522B2
To 2 ml of a methanol solution containing 57 mg of 4-(3-{(5-fluoro-8-methoxy-2,3-dihydrobenzo[1,4]dioxin-6-yl)-[4-(5-trifluoromethyl-[1,2,4]oxadiazol-3-yl)phenylamino]methyl}-5-oxo-4,5-dihydro-[1,2,4]triazol-1-yl)thiazole-5-carboxylic acid ethyl ester, 0.2 ml of a 5 N sodium hydroxide aqueous solution was added. The resulting mixture was stirred at room temperature for 18 hours, and then 2 ml of methanol, 2 ml of acetic acid, and 38 mg of iron powder were added thereto. The mixture was stirred at 60° C. for 18 hours and then at 65° C. for 6 hours, under a nitrogen atmosphere. After cooling, the reaction mixture was purified by reverse-phase high performance liquid chromatography (acetonitrile-water, 0.1% acetic acid) to give 4-{3-[(4-carbamimidoylphenylamino)-(5-fluoro-8-methoxy-2,3-dihydrobenzo[1,4]dioxin-6-yl)methyl]-5-oxo-4,5-dihydro-[1,2,4]triazol-1-yl}thiazole-5-carboxylic acid.

reactant | methanol | 2 ml | CO | CH4O
reactant | 4-(3-{(5-fluoro-8-methoxy-2,3-dihydrobenzo[1,4]dioxin-6-yl)-[4-(5-trifluoromethyl-[1,2,4]oxadiazol-3-yl)phenylamino]methyl}-5-oxo-4,5-dihydro-[1,2,4]triazol-1-yl)thiazole-5-carboxylic acid ethyl ester | 57 mg | C(C)OC(=O)C1=C(N=CS1)N1N=C(NC1=O)C(NC1=CC=C(C=C1)C1=NOC(=N1)C(F)(F)F)C1=C(C2=C(OCCO2)C(=C1)OC)F | C27H21F4N7O7S
reactant | sodium hydroxide | 5 N | [OH-].[Na+]
reactant | methanol | 2 ml | CO | CH4O
catalyst | iron | 38 mg | [Fe] | Fe
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
product | 4-{3-[(4-carbamimidoylphenylamino)-(5-fluoro-8-methoxy-2,3-dihydrobenzo[1,4]dioxin-6-yl)methyl]-5-oxo-4,5-dihydro-[1,2,4]triazol-1-yl}thiazole-5-carboxylic acid | C(N)(=N)C1=CC=C(C=C1)NC(C1=NN(C(N1)=O)C=1N=CSC1C(=O)O)C1=C(C2=C(OCCO2)C(=C1)OC)F | C23H20FN7O6S
